US05223529
Working in a manner similar to that described in Example 1, but starting with 2-amino-N-phenyl-N-[2-oxo-2-(1-pyrrolidinyl)ethyl]acetamide (0.7 g) and 3-methylphenyl isocyanate (0.36 g), and after recrystallization in acetonitrile, 2-[3-(3-methylphenyl)ureido]-N-phenyl-N-[2-oxo-2-(1-pyrrolidinyl) ethyl)acetamide (0.55 g), m.p. 206° C., is obtained.

reactant | 2-amino-N-phenyl-N-[2-oxo-2-(1-pyrrolidinyl)ethyl]acetamide | 0.7 g | NCC(=O)N(CC(N1CCCC1)=O)C1=CC=CC=C1 | C14H19N3O2
reactant | 3-methylphenyl isocyanate | 0.36 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | 2-[3-(3-methylphenyl)ureido]-N-phenyl-N-[2-oxo-2-(1-pyrrolidinyl) ethyl)acetamide | 0.55 g | CC=1C=C(C=CC1)NC(NCC(=O)N(CC(N1CCCC1)=O)C1=CC=CC=C1)=O | C22H26N4O3
